Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Codeine / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug)
 
Attending: ___.
 
Chief Complaint:
leg pain
 
Major Surgical or Invasive Procedure:
PICC placement and removal
 
History of Present Illness:
The patient is a ___ year old female with a history of 
malnutrition, esophagitis who is a patient at ___ presents 
with left leg pain and swelling. She was found DVT on exam. She 
was sent to ED for further management. Pt denies chest pain, 
dyspnea. No history of DVT/PE. No family history of clotting 
disorders, confirmed w/ patients mother and sister. 

In the ED, initial vitals were: 97.9 86 102/70 16 100%RA. ED 
noted that recent EGD showed esophageal candidiasis with a few 
small longitudinal ulcerations were found in the 
gastroesophageal junction and the cardia so concern about 
starting anticoagulation. Vascular surgery was consulted for 
consideration of IVC filter, recommendation was for systemic 
anticoagulation. A PICC line was placed due to difficulty 
obtaining access. 

 
Past Medical History:
-Morbid obesity (max 448lbs) s/p gastric bypass & CCY at 
___  and complete reversal
-History of HTN, DM, asthma (prior to gastric bypass)  
-Opiate addiction: prior intranasal herion, oral dilaudid abuse, 
now on suboxone  
-Depression/Anxiety  
-Esophagitis: EGD ___ showed mild active esophagitis.  
-DJD  
-2 SBOs  
-Menopause completed  

Past Surgical History:  
-___- gastric bypass & CCY  and subsequent complete 
reversal
-7 surgeries on the abdomen. "stomach leak" hernia, 2 SBOs, 
attempted reverse of the gastric bypass, the most recent in ___ 
 

 
Social History:
___
Family History:
-Mother: insulin dependent DM, DJD, htn- ___
-Father: healthy - ___
-Uncle/Cousin/ Aunt: colon ca, breast ca
-MGM: seizures-___ deceased
-MGF: heart ___ deceased
-PGM: ?edema - elderly deceased
-PGF: deceased in war
-Siblings: healthy
-Children: dtr has DM, she is ___, she was dx at age ___ with T1DM 
but she is obese.
 
Physical Exam:
Vitals: T:97.9  BP:119/89 P:90  R:18   O2:100RA  
General:  awake, NAD, chronically ill appearing
HEENT:  moist mucus membranes, dophoff in place
Neck:  no cervical LAD appreciated
CV:  S1, S2 regular rhythm, normal rate
Lungs: CTA bilaterally, unlabored respirations
Abdomen: soft, mild TTP epigastric, no rebound, no guarding
GU: no foley
Ext: bilateral 1+ lower extremity edema, pulses intact, some 
swelling in left upper extremity, picc line RUE c/d/i 
Neuro: alert, oriented to self, hospital, year, speech fluent, 
tongue midline, move extremities antigravity

 
Pertinent Results:
___ 04:27AM BLOOD WBC-5.0 RBC-2.39* Hgb-8.4* Hct-25.7* 
MCV-108* MCH-35.2* MCHC-32.7 RDW-17.7* Plt ___
___ 04:27AM BLOOD Plt ___
___ 04:27AM BLOOD Glucose-93 UreaN-10 Creat-0.4 Na-141 
K-4.8 Cl-113* HCO3-28 AnGap-5*
___ 04:27AM BLOOD Calcium-6.9* Phos-2.4* Mg-1.9

TTE ___
The left atrium is normal in size. Overall left ventricular 
systolic function is low normal (LVEF 50-55%) with suggested 
relative hypokinesis of the basal to mid anteroseptal wall. The 
estimated cardiac index is normal (>=2.5L/min/m2). Tissue 
Doppler imaging suggests a normal left ventricular filling 
pressure (PCWP<12mmHg). Right ventricular chamber size and free 
wall motion are normal. The aortic valve leaflets are mildly 
thickened (?#). There is no aortic valve stenosis. No aortic 
regurgitation is seen. The mitral valve appears structurally 
normal with trivial mitral regurgitation. There is no mitral 
valve prolapse. ricuspid valve prolapse is present. There may be 
mild tricuspid valve prolapse. The estimated pulmonary artery 
systolic pressure is normal. There is a trivial/physiologic 
pericardial effusion. 
IMPRESSION: Suboptimal image quality. Low-normal global left 
ventricular systolic function with relative hypokinesis of the 
basal to mid anteroseptum (atypical regional dysfunction for 
CAD).  

Lower extremity dopplers ___
IMPRESSION:
DVT of bilateral popliteal as well as posterior tibial veins.  
These findings were communicated at 9:15 a.m. on ___ 
by the technologist to Dr. ___ phone immediately at the 
time of discovery. 
  
___
PICC Placement xray
 
Preliminary ReportIMPRESSION: Technically successful placement 
of a double-lumen PowerPICC via 
Preliminary Reportthe right brachial vein, the tip is in the 
distal SVC and the catheter is 
Preliminary Reportready for use. 

___
IMPRESSION: 
Partially occlusive thrombus in the mid left brachial vein.   
  
CT Torso ___
IMPRESSION: 
1.  No evidence of an intra-abdominal or pelvic mass.  
2.  Consolidative opacity within the right lower lobe, possibly 
infectious or inflammatory in nature, although given this 
patient's history of lower extremity DVT, infarction secondary 
to a pulmonary embolus cannot be excluded.  linical correlation 
is recommended.   
3.  New small non hemorrhagic left pleural effusion, small 
volume ascites, and anasarca.   
4.  Moderate intrahepatic biliary duct dilatation and mild 
dilatation of the common duct, without evidence of an 
intraductal stone or ___ mass, not significantly 
changed.   
5.  Scattered subcentimeter hepatic hypodensities, too small to 
characterize, but not significantly changed.  
  
  
DISCHARGE LABS

___ 03:13AM BLOOD WBC-5.7 RBC-2.54* Hgb-9.0* Hct-27.5* 
MCV-108* MCH-35.3* MCHC-32.7 RDW-17.7* Plt ___
___ 03:13AM BLOOD ___ PTT-61.1* ___
___ 03:13AM BLOOD Glucose-104* UreaN-11 Creat-0.4 Na-138 
K-4.4 Cl-106 HCO3-27 AnGap-9
___ 03:13AM BLOOD Calcium-7.1* Phos-2.8 Mg-1.6

___ 06:00AM BLOOD WBC-6.7 RBC-2.54* Hgb-9.3* Hct-27.2* 
MCV-107* MCH-36.5* MCHC-34.1 RDW-18.2* Plt ___
___ 06:00AM BLOOD ___ PTT-42.9* ___
___ 06:00AM BLOOD Plt ___
___ 06:00AM BLOOD Glucose-101* UreaN-13 Creat-0.4 Na-139 
K-4.5 Cl-106 HCO3-28 AnGap-10
___ 06:00AM BLOOD ALT-29 AST-23 AlkPhos-115* TotBili-0.2
 
Brief Hospital Course:
The patient is a ___ year old female with a history of 
malnutrition requiring tube feeding as well as ___ 
esophagitis on fluconazole with leg pain and swelling found to 
have bilateral DVT.  
.
#BILATERAL DVT: Patient with risk factors of immobility, recent 
hospitalization, chronic illness leading to bilateral DVT. PICC 
line placed in ED and started on systemic anticoagulation with 
heparin. Started coumadin 3mg on ___. No evidence of 
bleeding. Continue heparin gtt until INR>2. Please monitor INR 
daily. Note that fluconazole can inhibit coumadin metabolism and 
raise the INR.
.
___ ESOPHAGITIS: History of odynophagia, EGD with biopsy 
concerning for fungal esophagitis. HIV testing negative. Started 
on fluconazole, PPI BID, carafate. Continue fluconzole through 
___. 
.
#MALNUTRITION: Malnourished in setting of ___ esophagitis. 
During previous admission dobhoff placed and tube feeds started. 
Plan to continue treatment for esophagitis and if able to 
improve po intake, may have dobhoff removed in the future. If 
not, will need to consider converting to gastric or jejunal 
tube. 

#LEFT ARM SWELLING: Ultrasound revealed a partially occlusive 
thrombus in the mid left brachial vein.

#THYROID NODULE: Noted on CT c-spine during previous admission. 
Will need non-emergent thyroid u/s for further evaluation.
.
CHRONIC ISSUES: 
# Opioid dependence: continue home dose of suboxone 1 TAB SL 
TID. Patient's daughter and mother concerned for ongoing 
substance abuse via hoarding pills and possibly heroin. She will 
require directly-observed medication administration. 
# Macrocytic Anemia: stable 
# Depression/anxiety: Continue quetiapine, doxepin, clonazepam. 
The doses of the seroquel and clonazepam were reduced due to 
excessive somnolence while hospitalized.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Buprenorphine-Naloxone (8mg-2mg) 1 TAB SL TID 
2. Docusate Sodium 100 mg PO BID:PRN constipation 
3. Doxepin HCl 75 mg PO HS 
4. Omeprazole 20 mg PO BID 
5. QUEtiapine Fumarate 400 mg PO QHS 
6. QUEtiapine Fumarate 200 mg PO QAM 
7. Vitamin D ___ UNIT PO DAILY 
8. Cholestyramine 4 gm PO BID 
9. Fluconazole 200 mg PO Q24H 
10. Polyethylene Glycol 17 g PO DAILY 
11. Sucralfate 1 gm PO QID 
12. ClonazePAM 1 mg PO BID 

 
Discharge Medications:
1. Buprenorphine-Naloxone (8mg-2mg) 1 TAB SL TID 
2. ClonazePAM 0.5 mg PO BID 
3. Docusate Sodium 100 mg PO BID:PRN constipation 
4. Doxepin HCl 75 mg PO HS 
5. Omeprazole 20 mg PO BID 
6. Polyethylene Glycol 17 g PO DAILY 
7. QUEtiapine Fumarate 100 mg PO QAM 
8. QUEtiapine Fumarate 200 mg PO QHS 
9. Vitamin D ___ UNIT PO DAILY 
10. Heparin IV per Weight-Based Dosing Guidelines

11. Warfarin 3 mg PO DAILY16 
12. Cholestyramine 4 gm PO BID 
Patient may refuse 
13. Fluconazole 200 mg PO Q24H 
14. Sucralfate 1 gm PO QID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Deep vein thrombosis, bilateral lower extremities
Malnutrition
Substance abuse
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted with leg swelling. You were diagnosed with 
blood clots (Deep vein thromboses) in your legs. You were 
started on blood thinners for this.

You were quite sleepy at various times during this 
hospitalization. We are decreasing the dose of Clonazepam and 
Seroquel that you are taking.
 
Followup Instructions:
___